US07148226B2
6-[2-(5-chloro-2,4-dimethoxyphenyl)ethyl]-6-cyclopentyldihydro-2H-pyran-2,4(3H)-dione
A solution of 6-[2-(2,4-dimethoxyphenyl)ethyl]-6-cyclopentyldihydro-2H-pyran-2,4(3H)-dione (from example A(39); 4.50 g, 13 mmol) in CH2Cl2 (20 mL) was cooled to −5° C. and treated with a solution of SO2Cl2 (1.94 g, 14.3 mmol) in CH2Cl2 (10 mL) dropwise under nitrogen. The reaction mixture was stirred for an additional 15 minutes at −5° C., then allowed to warm gradually to room temperature. After a total reaction time of 2 h, an aqueous solution of NaHCO3 (5 wt %) was added to achieve a pH of 8 in the aqueous phase. The volatiles were removed in vacuo. The residue was treated with water and extracted with ethyl acetate (3×25 mL). The combined ethyl acetate extract was acidified to a pH 2 using 2 N HCl, then washed with water. The organic phase was dried over Na2SO4, filtered, and concentrated to a yellowish solid. Recrystallization from ether afforded the title product as a white solid (2.18 g, 44%).

reactant | 6-[2-(2,4-dimethoxyphenyl)ethyl]-6-cyclopentyldihydro-2H-pyran-2,4(3H)-dione | 13 mmol, 4.50 g | COC1=C(C=CC(=C1)OC)CCC1(CC(CC(O1)=O)=O)C1CCCC1 | C20H26O5
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
reactant | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
reactant | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | 6-[2-(5-chloro-2,4-dimethoxyphenyl)ethyl]-6-cyclopentyldihydro-2H-pyran-2,4(3H)-dione | 2.18 g, 44% | ClC=1C(=CC(=C(C1)CCC1(CC(CC(O1)=O)=O)C1CCCC1)OC)OC | C20H25ClO5
